US09062032B2
A mixture of 3.01 g of methyl 5-(morpholin-4-ylmethyl)thiophene-2-carboxylate and 30 mL of 6.0 M hydrochloric acid was subjected to heating under reflux overnight at 100° C. The reaction mixture was concentrated under reduced pressure, and the residue was washed with acetonitrile, thereby obtaining 3.05 g of 5-(morpholin-4-ylmethyl)thiophene-2-carboxylic acid hydrochloride.

reactant | methyl 5-(morpholin-4-ylmethyl)thiophene-2-carboxylate | 3.01 g | N1(CCOCC1)CC1=CC=C(S1)C(=O)OC | C11H15NO3S
reactant | hydrochloric acid | 6.0 M, 30 mL | Cl | ClH
product | 5-(morpholin-4-ylmethyl)thiophene-2-carboxylic acid hydrochloride | 3.05 g | Cl.N1(CCOCC1)CC1=CC=C(S1)C(=O)O | InChI=1S/C10H13NO3S.ClH/c12-10(13)9-2-1-8(15-9)7-11-3-5-14-6-4-11;/h1-2H,3-7H2,(H,12,13);1H
